### PR TITLE
feat: high-level order typeclasses

### PR DESCRIPTION
**Pull request by datokrat**
This PR introduces a canonical way to endow a type with an order structure. The basic operations (`LE`, `LT`, `Min`, `Max`, and in later PRs `BEq`, `Ord`, ...) and any higher-level property (a preorder, a partial order, a linear order etc.) are then put in relation to `LE` as necessary. The PR provides `IsLinearOrder` instances for many core types and updates the signatures of some lemmas.

**BREAKING CHANGES:**

* The requirements of the `lt_of_le_of_lt`/`le_trans` lemmas for `Vector`, `List` and `Array` are simplified. They now require an `IsLinearOrder` instance. The new requirements are logically equivalent to the old ones, but the `IsLinearOrder` instance is not automatically inferred from the smaller typeclasses.
* Hypotheses of type `Std.Total (¬ · < · : α → α → Prop)` are replaced with the equivalent class `Std.Asymm (· < · : α → α → Prop)`. Breakage should be limited because there is now an instance that derives the latter from the former.
* In `Init.Data.List.MinMax`, multiple theorem signatures are modified, replacing explicit parameters for antisymmetry, totality, `min_ex_or` etc. with corresponding instance parameters.

### CODE REVIEW

**Comment by datokrat** [comment]
!bench

**Comment by ghost** [comment]
Mathlib CI status ([docs](https://leanprover-community.github.io/contribute/tags_and_branches.html)):
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase 09e8079ea3a7dd9a57cae5b417c7f2d84c8fcb81 --onto c260435913353a138e3d463b533d1449de0d0062`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-05 13:34:26)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ed860dfa23acab2178686d85f463101f5adbddf1 --onto c260435913353a138e3d463b533d1449de0d0062`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-05 20:39:11)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ed860dfa23acab2178686d85f463101f5adbddf1 --onto 12cd4ca7423119c116dcef78d5ae972d44f8af47`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-06 07:30:33)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase ed860dfa23acab2178686d85f463101f5adbddf1 --onto d5e19f9b288abe7e2c1ed359fb026ed9ae83f6e0`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-08 13:16:24)
- ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f15d531acbc1ba972d88fff2e0557590b20c0ef2 --onto 544f9912b70df75511e73eaef1f57573bf92b351`. You can force Mathlib CI using the `force-mathlib-ci` label. (2025-08-11 08:48:48)
Forcing Mathlib CI because the `force-mathlib-ci` label is present, despite problem: - ❗ Batteries/Mathlib CI will not be attempted unless your PR branches off the `nightly-with-mathlib` branch. Try `git rebase f15d531acbc1ba972d88fff2e0557590b20c0ef2 --onto e0fcaf5e7ddab2fcab51be8c403446d84a8a0d45`. (2025-08-11 11:40:11)
- 💥 Mathlib branch [lean-pr-testing-9729](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9729) build failed against this PR. (2025-08-11 11:54:27) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16878982726)
- ✅ Mathlib branch [lean-pr-testing-9729](https://github.com/leanprover-community/mathlib4-nightly-testing/compare/nightly-testing...lean-pr-testing-9729) has successfully built against this PR. (2025-08-11 13:06:43) [View Log](https://github.com/leanprover-community/mathlib4-nightly-testing/actions/runs/16879830410)

**Comment by datokrat** [comment]
Since the commit at the merge base has not been benchmarked so far, here's the comparison to the previous commit: https://speed.lean-lang.org/lean4/compare/bab50d33-13a1-40c4-85a0-fda5f93f8b22/to/8b0e8a4c-cd31-460c-a038-3a479367140d?hash1=b42a7780e2f284dc53956ada763bd1ba575ef670

**Comment by datokrat** [comment]
!bench

**Comment by datokrat** [comment]
!bench

**Comment by datokrat** [comment]
Note: The last benchmark was obtained after basing this PR on the PR stabilizing `omega`'s performance (https://github.com/leanprover/lean4/pull/9723). The 7% slowdown of the `big_omega.lean` benchmark is inherited from there.

File: src/Init/Data/List/Lex.lean [hunk 1]
```diff
@@ -8,16 +8,27 @@ module
...
 set_option linter.listVariables true -- Enforce naming conventions for `List`/`Array`/`Vector` variables.
 set_option linter.indexVariables true -- Enforce naming conventions for index variables.
 
 namespace List
 
 /-! ### Lexicographic ordering -/
 
+instance [LT α] : OrderData (List α) := .ofLE (List α)
+
+instance [LT α] [Std.Asymm (α := List α) (· < ·)]: LawfulOrderLT (List α) where
```
Comment (TwoFX) [inline src/Init/Data/List/Lex.lean]:
```suggestion
instance [LT α] [Std.Asymm (α := List α) (· < ·)] : LawfulOrderLT (List α) where
```

File: src/Init/Data/Order/Classes.lean [hunk 2]
```diff
@@ -0,0 +1,217 @@
...
+
+namespace Std
+
+/-!
+# Order-related typeclasses
+
+This module provides the typeclasses used to state that basic operations on some type `α`
+reflect a certain well-behaved order structure on `α`.
+
+The basic operations are provided by typeclasses such as `LE α`, `LT α`, `Ord α` or `Min α`.
```
Comment (TwoFX) [inline src/Init/Data/Order/Classes.lean]: I think it would be good to exhaustively list all type classes that are in scope here.

File: src/Init/Data/Order/Classes.lean [hunk 3]
```diff
@@ -0,0 +1,217 @@
...
+All of them describe at least some way to compare elements in `α`. Usually, any subset of them
+is available and can show (or needs) that these comparisons are well-behaved in some sense.
```
Comment (TwoFX) [inline src/Init/Data/Order/Classes.lean]: The second sentence seems ungrammatical to me.

File: src/Init/Data/Order/Classes.lean [hunk 4]
```diff
@@ -0,0 +1,217 @@
...
+`OrderData` for a more detailed explanation for its necessity.
+-/
+
+/--
+This data-carrying typeclass defines which elements of `α` are less, and less or equal, to
+which other elements.
+
+The operations of this class are not meant to be used directly.
+Instead users should rely on typeclasses such as `LE α`, `LT α` or `Ord α` that provide basic
+operations, here `<`, `>` and `compare`.
```
Comment (TwoFX) [inline src/Init/Data/Order/Classes.lean]: I think this should read 
```suggestion
operations, here `≤`, `<` and `compare`.
```

File: src/Init/Data/Order/Classes.lean [hunk 5]
```diff
@@ -0,0 +1,217 @@
...
+
+**Role of `OrderData α`:**
+
+This typeclass allows to describe order-related properties of `α` is an abstract, canonical way,
```
Comment (TwoFX) [inline src/Init/Data/Order/Classes.lean]:
```suggestion
This typeclass allows to describe order-related properties of `α` in an abstract, canonical way,
```

File: src/Init/Data/Order/Factories.lean [hunk 6]
```diff
@@ -0,0 +1,279 @@
...
+
+/--
+Returns a `LawfulOrderLT α` instance given certain properties.
+
+If an `OrderData α` instance is compatible with an `LT α` instance, then this lemma derives
+a `LawfulOrderMin α` instance from two properties involving `LE α` and `Min α` instances.
+
+This convenience lemma combines `LawfulOrderInf.ofLE` and `LawfulOrderMin.ofLE`.
+-/
+public theorem LawfulOrderLT.ofLE {α : Type u} [OrderData α] [LT α] [LE α] [LawfulOrderLE α]
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]: I think I don't follow the naming here. I think I would have called it `of_le`. Same for the following theorems.

File: src/Init/Data/Order/Factories.lean [hunk 7]
```diff
@@ -0,0 +1,279 @@
...
+    (lt_iff : ∀ a b : α, a < b ↔ a ≤ b ∧ ¬ b ≤ a) : LawfulOrderLT α where
+  lt_iff := by simpa [LawfulOrderLE.le_iff] using lt_iff
+
+/--
+If an `OrderData α` instance is compatible with an `LE α` instance, then this lemma characterizes
+in terms of `LE α` when a `Min α` instance "behaves like an infimum operator".
+-/
+public theorem LawfulOrderInf.ofLE {α : Type u} [OrderData α] [Min α] [LE α] [LawfulOrderLE α]
+    (le_min_iff : ∀ a b c : α, a ≤ Min.min b c ↔ a ≤ b ∧ a ≤ c) : LawfulOrderInf α where
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]:
```suggestion
    (le_min_iff : ∀ a b c : α, a ≤ min b c ↔ a ≤ b ∧ a ≤ c) : LawfulOrderInf α where
```
Similar below.

File: src/Init/Data/Order/Factories.lean [hunk 8]
```diff
@@ -0,0 +1,279 @@
...
+  le_min_iff := by simpa [LawfulOrderLE.le_iff] using le_min_iff
+
+/--
+Returns a `LawfulOrderMin α` instance given certain properties.
+
+If an `OrderData α` instance is compatible with an `LE α` instance, then this lemma derives
+a `LawfulOrderMin α` instance from two properties involving `LE α` and `Min α` instances.
+
+This convenience lemma combines `LawfulOrderInf.ofLE` and `LawfulOrderMin.ofLE`.
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]: This sentence makes no sense, because this docstring is about `LawfulOrderMin.ofLE`.

File: src/Init/Data/Order/Classes.lean [hunk 9]
```diff
@@ -0,0 +1,217 @@
...
+
+/--
+This typeclass bundles `MinEqOr α` and `LawfulOrderInf α`. It characterizes when a `Min α`
+instance reasonably computes minima in some type `α` that has an `OrderData α` instance.
+
+As long as `α` is a preorder (see `IsPreorder α`), this typeclass implies that the order on
+`α` is total and that `Min.min a b` returns either `a` or `b`, whichever is less or equal to
+the other.
+-/
+public class LawfulOrderMin (α : Type u) [Min α] [OrderData α] extends MinEqOr α, LawfulOrderInf α
```
Comment (TwoFX) [inline src/Init/Data/Order/Classes.lean]: Possibly you have already thought about this, but I think there is something even stronger that might be of interested in linear preorders:

```lean
public class LawfulOrderLeftLeaningMin (α : Type u) [Min α] [OrderData α] where
  min_eq_left : ∀ a b : α, OrderData.IsLE a b → min a b = a
  min_eq_right : ∀ a b : α, ¬OrderData.IsLE a b → min a b = b
```

(this is the same as `min_eq_if : ∀ a b : α, min a b = if OrderData.IsLE a b then a else b` modulo decidability)

Do we want this?

File: src/Init/Data/Order/Factories.lean [hunk 10]
```diff
@@ -0,0 +1,279 @@
...
+-/
+public theorem LawfulOrderMin.ofLE {α : Type u} [OrderData α] [Min α] [LE α] [LawfulOrderLE α]
+    (le_min_iff : ∀ a b c : α, a ≤ Min.min b c ↔ a ≤ b ∧ a ≤ c)
+    (min_eq_or : ∀ a b : α, min a b = a ∨ min a b = b) : LawfulOrderMin α where
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]: Other convenient axiomatizations are possible here; am I correct in assuming that providing alternative constructors would be part of a future PR?

File: src/Init/Data/Order/Factories.lean [hunk 11]
```diff
@@ -0,0 +1,279 @@
...
+  toLawfulOrderInf := .ofLE le_min_iff
+  toMinEqOr := ⟨min_eq_or⟩
+
+/--
+If an `OrderData α` instance is compatible with an `LE α` instance, then this lemma characterizes
+in terms of `LE α` when a `Max α` instance "behaves like an supremum operator".
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]:
```suggestion
in terms of `LE α` when a `Max α` instance "behaves like a supremum operator".
```

File: src/Init/Data/Order/Factories.lean [hunk 12]
```diff
@@ -0,0 +1,279 @@
...
+
+/--
+If an `OrderData α` instance is compatible with an asymmetric `LT α` instance the negation of which
+is transitive, then the `OrderData α` instance is a linear order.
+-/
+public theorem IsLinearPreorder.of_lt {α : Type u} [LT α]
+    (lt_asymm : Asymm (α := α) (· < ·) := by exact inferInstance)
+    (not_lt_trans : Trans (α := α) (¬ · < ·) (¬ · < ·) (¬ · < ·) := by exact inferInstance) :
+    haveI : OrderData α := .ofLT α
+    IsLinearPreorder α :=
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]: Should this not be
```suggestion
public theorem IsLinearPreorder.of_lt {α : Type u} [LT α] [OrderData α] [LawfulOrderLT α]
    (lt_asymm : Asymm (α := α) (· < ·) := by exact inferInstance)
    (not_lt_trans : Trans (α := α) (¬ · < ·) (¬ · < ·) (¬ · < ·) := by exact inferInstance) :
    IsLinearPreorder α :=
```
(simlar for many lemmas below)

File: src/Init/Data/Order/Lemmas.lean [hunk 13]
```diff
@@ -0,0 +1,377 @@
...
+    a < b ↔ a ≤ b ∧ ¬ b ≤ a := by
+  simp [LawfulOrderLE.le_iff, LawfulOrderLT.lt_iff]
+
+public theorem not_lt {α : Type u} [LT α] [LE α] [OrderData α] [Std.Total (α := α) (· ≤ ·)]
+    [LawfulOrderLE α] [LawfulOrderLT α] {a b : α} :
+    ¬ a < b ↔ b ≤ a := by
+  simp [lt_iff_le_and_not_ge, Classical.not_not, Std.Total.total]
+
+public theorem not_gt_of_lt {α : Type u} [LT α] [i : Std.Asymm (α := α) (· < ·)] {a b : α} (h : a < b) :
+  ¬ b < a := i.asymm a b h
```
Comment (TwoFX) [inline src/Init/Data/Order/Lemmas.lean]: Indentation

File: src/Init/Data/Order/Factories.lean (hunk 6 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: I'm trying to make a fine distinction here. `LawfulOrderLT.ofLE` talks about `OrderData.ofLE` specifically. On the other hand, `IsLinearOrder.of_le` is meant to be applicable for *any* `OrderData` instance that is compatible with `LE`, hence the snake_case.

I think that it would be equally consistent with the naming convention to also use snake_case in this situation. Might be also less confusing.

File: src/Init/Data/Order/Classes.lean (hunk 9 above)
Comment (datokrat) [reply src/Init/Data/Order/Classes.lean]: It breaks the opposite-opposite symmetry ;)

I mean, just having the class and some lemmas seems sensible. But it raises the question whether we want the left-leaning min to be the canonical minimum operation:

* Should the `Classical.Order` scop provide a left-leaning minimum?
* I'm currently working on factories that provide all of the canonically derivable instances for (e.g.) `IsLinearPreorder`. Should the left-leaning minimum and the `LawfulOrderLeftLeaningMin` instance also be derived by the factory? Would it be legitimate for someone to want a right-leaning minimum instead?

I tend to provide the `Classical.Order` instances and make the factory by default provide the left-leaning minimum. However, I want the factory not to provide `LawfulOrderLeftLeaningMin`, so that users can use a potentially right-leaning `Min` instance if they really want.

File: src/Init/Data/Order/Factories.lean (hunk 10 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: Are you thinking of something roughly like "In a linear preorder where `Min` behaves like the left-leaning minimum, then there's a `LawfulOrderMin` instance? This is a good idea, I will provide such instances in a later PR.

If you are thinking of some other specific axiomatization, feel free to let me know here or in the review of said later PR.

File: src/Init/Data/Order/Factories.lean (hunk 6 above)
Comment (TwoFX) [reply src/Init/Data/Order/Factories.lean]: Well, this lemma isn't about `OrderData.ofLE`, and I think rightfully so.

File: src/Init/Data/Order/Classes.lean (hunk 9 above)
Comment (TwoFX) [reply src/Init/Data/Order/Classes.lean]: Sounds reasonable, as long as it's easy enough to get hold of `LawfulOrderLeftLeaningMin` as required.

File: src/Init/Data/Order/Factories.lean (hunk 12 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: No, this is a subtlety. `LT` doesn't match as nicely of `OrderData` as `LE` does. While `LawfulOrderLT` uniquely determines `LT` in terms of `OrderData`, the reverse is only true if `OrderData` is total. The given axiomatization only works for `ofLT`, because asymmetry of `LT` implies totality of `OrderData.ofLT`.

An example is the `OrderData` defined by `IsLE a b := False`. Then `a < b  <->  a <= b /\ ¬ b <= a  <->  False`, so `LT` is asymmetric by construction. We also have `¬ a < b = True`, so `not_lt_trans` is satisfied, too. However, this does not define a linear preorder.

This could be alleviated by adding the axiom that `OrderData` is total, but I don't want that users need to care about `OrderData.IsLE` by themselves. Another alternative would be to also require `LE`, but then there's no reason why people couldn't simply use `ofLE` instead.

Another idea is to strengthen `LawfulOrderLT` so that it forces the `OrderData` instance to be `OrderData.ofLT`. However, then there's no lawful `LT` instances for non-total partial orders.

Because of all of this, I don't see any viable alternatives to the current definition.

File: src/Init/Data/Order/Factories.lean (hunk 10 above)
Comment (TwoFX) [reply src/Init/Data/Order/Factories.lean]: I was thinking of this, and also under the assumption of `min_eq_or`, I believe that `le_min_iff` is equivalent to `min a b ≤ a` and `min a b ≤ b`, which might be easier to provide.

File: src/Init/Data/Order/Factories.lean (hunk 12 above)
Comment (TwoFX) [reply src/Init/Data/Order/Factories.lean]: Okay, I understand. Then this theorem should be called `IsLinearPreorder.ofLT`, no?

File: src/Init/Data/SInt/Lemmas.lean [hunk 14]
```diff
@@ -3025,6 +3028,76 @@ protected theorem Int64.lt_asymm {a b : Int64} : a < b → ¬b < a :=
 protected theorem ISize.lt_asymm {a b : ISize} : a < b → ¬b < a :=
   fun hab hba => ISize.lt_irrefl (ISize.lt_trans hab hba)
 
+instance : OrderData Int8 := .ofLE Int8
+
+open Int8 renaming
+  le_refl → le_refl', le_antisymm → le_antisymm', le_total → le_total', le_trans → le_trans' in
```
Comment (TwoFX) [inline src/Init/Data/SInt/Lemmas.lean]: I am surprised that this is necessary; isn't `Int8.le_refl` protected exactly because of this?

File: src/Init/Data/Order/Factories.lean (hunk 12 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: Hmm, I'd rather prefer to use the `of_lt` nomenclature here and also for `LawfulOrderLE.of_lt`. Otherwise it might get too confusing.

File: src/Init/Data/Order/Factories.lean (hunk 10 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: That's a very good idea. I even think your suggested axioms should be the default ones, so I'll move this lemma to a different name and provide the simpler version with `min a b ≤ a` and `min a b ≤ b` under the premium name instead.

File: src/Init/Data/Order/Factories.lean (hunk 6 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: You're right, I was confused. I will use `of_le` instead of `ofLE` here and similarly for `of_lt` and `ofLT`. It seems more consistent and less confusing.

File: src/Init/Data/Order/Factories.lean (hunk 10 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: No, wait, this simpler version would require transitivity, which we currently do not assume here. Then I'd rather keep this lemma as-is and provide a separate one in a later PR.

File: src/Init/Data/Order/Classes.lean (hunk 9 above)
Comment (datokrat) [reply src/Init/Data/Order/Classes.lean]: I've put `LawfulOrderLeftLeaningMin` on my to-do list and will add it in a later PR, ensuring that it's easy to obtain.

File: src/Init/Data/Order/Factories.lean (hunk 10 above)
Comment (TwoFX) [reply src/Init/Data/Order/Factories.lean]: Ah yes, I assumed transitivity.

File: src/Init/Data/Order/Factories.lean (hunk 12 above)
Comment (TwoFX) [reply src/Init/Data/Order/Factories.lean]: Works for me.

File: src/Init/Data/Order/Factories.lean [hunk 15]
```diff
@@ -0,0 +1,277 @@
...
+    (max_eq_or : ∀ a b : α, max a b = a ∨ max a b = b) : LawfulOrderMax α where
+  toLawfulOrderSup := .of_le max_le_iff
+  toMaxEqOr := ⟨max_eq_or⟩
+
+end OfLE
+
+section OfLT
+
+/--
+Creates an `OrderData α` instance from an `LT α` instance.
```
Comment (TwoFX) [inline src/Init/Data/Order/Factories.lean]: I think it would make sense for the docstring to document which choice for the less-than-or-equal-to relation is made here.

Is there a specific reason why you didn't go with `IsLE a b := a = b ∨ a < b`? I think that one would have been my intuitive choice, as it recovers a good notion of order for some non-linear orders like the one on `Set α` given by inclusion.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 16]
```diff
@@ -4015,6 +4018,14 @@ protected theorem ne_of_lt {x y : BitVec n} : x < y → x ≠ y := by
...
   apply Nat.ne_of_lt
 
+instance {n : Nat} : OrderData (BitVec n) := .ofLE (BitVec n)
+
+instance instIsLinearOrder : IsLinearOrder (BitVec n) := by
+  apply IsLinearOrder.of_le
+  case le_antisymm => constructor; apply BitVec.le_antisymm
+  case le_trans => constructor; apply BitVec.le_trans
+  case le_total => constructor; apply BitVec.le_total
+
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Lemmas.lean:4026]: Shouldn't you be providing `LawfulOrderLT` here?

File: src/Init/Data/Char/Order.lean [hunk 17]
```diff
@@ -0,0 +1,25 @@
...
+prelude
+public import Init.Data.Char.Basic
+import Init.Data.Char.Lemmas
+public import Init.Data.Order.Factories
+
+open Std
+
+public instance : OrderData Char := .ofLE Char
+
+public instance instIsLinearOrder : IsLinearOrder Char := by
```
Comment (TwoFX) [inline src/Init/Data/Char/Order.lean:17]: Are you missing a namespace here? It seems like a rather general instance name to me.

File: src/Init/Data/List/Lex.lean [hunk 18]
```diff
@@ -193,21 +201,37 @@ protected theorem lt_of_le_of_lt [LT α]
...
     [Std.Antisymm (¬ · < · : α → α → Prop)]
-    [Trans (¬ · < · : α → α → Prop) (¬ · < ·) (¬ · < ·)] :
+    [Trans (¬ · < · : α → α → Prop) (¬ · < ·) (¬ · < ·)]
+    {l₁ l₂ l₃ : List α} (h₁ : l₁ ≤ l₂) (h₂ : l₂ ≤ l₃) : l₁ ≤ l₃ :=
+  letI : OrderData α := .ofLT α
+  haveI : IsLinearOrder α := IsLinearOrder.of_lt
+  List.le_trans h₁ h₂
+
+/--
+This also triggers for `LinearOrder`
```
Comment (TwoFX) [inline src/Init/Data/List/Lex.lean]: I'm not sure what this docstring is saying. Is it about mathlib's `LinearOrder`?

File: src/Init/Data/List/Nat/Basic.lean [hunk 19]
```diff
@@ -211,11 +212,8 @@ theorem mem_eraseIdx_iff_getElem? {x : α} {l} {k} : x ∈ eraseIdx l k ↔ ∃
 
 -- A specialization of `min?_eq_some_iff` to Nat.
 theorem min?_eq_some_iff' {xs : List Nat} :
```
Comment (TwoFX) [inline src/Init/Data/List/Nat/Basic.lean:215]: Can this be deprecated or is there a reason for it to stay?

File: src/Init/Data/List/MinMax.lean [hunk 20]
```diff
@@ -144,54 +175,123 @@ theorem isSome_max?_of_mem {l : List α} [Max α] {a : α} (h : a ∈ l) :
...
 
--- This could be refactored by designing appropriate typeclasses to replace `le_refl`, `max_eq_or`,
--- and `le_min_iff`.
-theorem max?_eq_some_iff [Max α] [LE α] [anti : Std.Antisymm (· ≤ · : α → α → Prop)]
-    (le_refl : ∀ a : α, a ≤ a)
-    (max_eq_or : ∀ a b : α, max a b = a ∨ max a b = b)
-    (max_le_iff : ∀ a b c : α, max b c ≤ a ↔ b ≤ a ∧ c ≤ a) {xs : List α} :
-    xs.max? = some a ↔ a ∈ xs ∧ ∀ b ∈ xs, b ≤ a := by
-  refine ⟨fun h => ⟨max?_mem max_eq_or h, (max?_le_iff max_le_iff h).1 (le_refl _)⟩, ?_⟩
+/-- See also `Init.Data.List.Nat.Basic` for the specialization to `Nat`, called `max?_eq_some_iff`. -/
```
Comment (TwoFX) [inline src/Init/Data/List/MinMax.lean]: Didn't check, but presumably this should be
```suggestion
/-- See also `Init.Data.List.Nat.Basic` for the specialization to `Nat`, called `max?_eq_some_iff'`. -/
```
but of course this version might work perfectly well for `Nat`.

File: src/Init/Data/Order/Subtype.lean [hunk 21]
```diff
@@ -0,0 +1,86 @@
+/-
```
Comment (TwoFX) [inline src/Init/Data/Order/Subtype.lean]: I think I would have moved `Init/Data/Subtype.lean` to `Init/Data/Subtype.Basic.lean` and named this new file `Init/Data/Subtype/Order.lean`.

File: src/Init/Data/Order/Subtype.lean [hunk 22]
```diff
@@ -0,0 +1,86 @@
...
+  IsLE a b := OrderData.IsLE a.val b.val
+
+public instance {α : Type u} [Min α] [MinEqOr α] {P : α → Prop} : Min (Subtype P) where
+  min a b := ⟨Min.min a.val b.val, MinEqOr.elim a.property b.property⟩
+
+public instance {α : Type u} [LE α] [OrderData α] [LawfulOrderLE α]
+    {P : α → Prop} : LawfulOrderLE (Subtype P) where
+  le_iff a b := by simp only [LE.le, OrderData.IsLE, LawfulOrderLE.le_iff]
+
+@[no_expose]
```
Comment (TwoFX) [inline src/Init/Data/Order/Subtype.lean]: Are you sure that these `@[no_expose]` are doing anything on a `Prop`-valued typeclass? Also, have you considered using `refl a := by exact ...` or `refl a := private ...`?

File: src/Init/Data/Order/Subtype.lean [hunk 23]
```diff
@@ -0,0 +1,86 @@
...
+import Init.SimpLemmas
+public import Init.Data.Order.Classes
+public import Init.Data.Order.Lemmas
+import Init.Data.Order.Factories
+import Init.Data.Subtype
+
+namespace Std
+
+public instance {α : Type u} [LE α] {P : α → Prop} : LE (Subtype P) where
+  le a b := a.val ≤ b.val
```
Comment (TwoFX) [inline src/Init/Data/Order/Subtype.lean]: Note that `mathlib` also defines this, we should make sure to keep this in mind when this PR is merged.

File: src/Init/Data/Order/Subtype.lean [hunk 24]
```diff
@@ -0,0 +1,86 @@
...
+
+public instance {α : Type u} [OrderData α] {P : α → Prop} : OrderData (Subtype P) where
+  IsLE a b := OrderData.IsLE a.val b.val
+
+public instance {α : Type u} [Min α] [MinEqOr α] {P : α → Prop} : Min (Subtype P) where
+  min a b := ⟨Min.min a.val b.val, MinEqOr.elim a.property b.property⟩
+
```
Comment (TwoFX) [inline src/Init/Data/Order/Subtype.lean]: Presumably we should also define `LT`, `Max` etc. so that no one is confused that only half of the instances are there.

File: src/Init/Data/UInt/Basic.lean [hunk 25]
```diff
@@ -373,6 +380,9 @@ instance : Div UInt16       := ⟨UInt16.div⟩
 instance : LT UInt16        := ⟨UInt16.lt⟩
 instance : LE UInt16        := ⟨UInt16.le⟩
 
+@[no_expose]
+instance : OrderData UInt16 := .ofLE UInt16
```
Comment (TwoFX) [inline src/Init/Data/UInt/Basic.lean]: No love for `UInt32` and `USize`?

File: src/Std/Data/Internal/List/Associative.lean [hunk 26]
```diff
@@ -5547,20 +5549,26 @@ private theorem le_min_iff [Ord α] [TransOrd α] {a b c : (a : α) × β a} :
...
+  haveI : LawfulOrderMin ((a : α) × β a) := .of_le (fun _ _ _ => le_min_iff) (fun _ _ => min_eq_or)
+  haveI : Refl (α := (a : α) × β a) (· ≤ ·) := ⟨fun _ => ReflCmp.isLE_rfl⟩
+  haveI : Antisymm (α := Subtype (· ∈ l)) (· ≤ ·) := by
+    constructor
+    intro a b hab hba
+    exact Subtype.ext
+      <| hd.eq_of_mem_of_beq a.property b.property
+      <| compare_eq_iff_beq.mp
+      <| OrientedCmp.isLE_antisymm hab hba
+  haveI : IsLinearOrder (Subtype (· ∈ l)) := IsLinearOrder.of_refl_of_antisymm_of_lawfulOrderMin
```
Comment (TwoFX) [inline src/Std/Data/Internal/List/Associative.lean]: I wonder how much of this would be better put in a different place.

File: src/Init/Data/Order/Factories.lean (hunk 15 above)
Comment (datokrat) [reply src/Init/Data/Order/Factories.lean]: Your proposed definition is only well-behaved if the order is antisymmetric. More general would be `IsLE a b := a == b ∨ a < b`, but then we'd need to also require `BEq`.

There's a tradeoff to be made either way because `LT` alone does not contain enough information. We either need to assume antisymmetry or totality. In the `Set` use case, I would prefer to define the order using `LE`. Or is there a reason why we'd want to rely on `LT` there?

Theoretically, I could provide two different factories for these two cases, but I fear that it might not be worth the complexity.

File: src/Init/Data/List/Lex.lean (hunk 18 above)
Comment (datokrat) [reply src/Init/Data/List/Lex.lean]: This docstring is unfortunately outdated. I will remove it.

Originally, I formulated this lemma using the fine-grained axioms and wanted to indicate that all of the axioms are entailed by `IsLinearOrder`, so that people know that it suffices if they implement `IsLinearOrder`.

File: src/Init/Data/Order/Factories.lean (hunk 15 above)
Comment (TwoFX) [reply src/Init/Data/Order/Factories.lean]: > Or is there a reason why we'd want to rely on `LT` there?

I guess this is really my problem, I don't know why I'd ever want to introduce the order data using `LT` instead of `LE`...

File: src/Init/Data/List/MinMax.lean (hunk 20 above)
Comment (datokrat) [reply src/Init/Data/List/MinMax.lean]: Yes, I will deprecate the primed one.

File: src/Init/Data/Order/Subtype.lean (hunk 22 above)
Comment (datokrat) [reply src/Init/Data/Order/Subtype.lean]: They are doing something for `Antisymm`. But I'm equally fine with `by exact`/`private`.

(Didn't know that I can use `private` here. Nice!)

File: src/Init/Data/Order/Subtype.lean (hunk 23 above)
Comment (datokrat) [reply src/Init/Data/Order/Subtype.lean]: Noted!

File: src/Init/Data/Order/Subtype.lean (hunk 24 above)
Comment (datokrat) [reply src/Init/Data/Order/Subtype.lean]: Added `LT`, `Max`, `BEq` and (due to an import cycle, in a separate `Subtype.OrderExtra` module) `Ord`.

File: src/Init/Data/SInt/Lemmas.lean (hunk 14 above)
Comment (datokrat) [reply src/Init/Data/SInt/Lemmas.lean]: Turns out it wasn't necessary (anymore? no idea what prompted me to do it that way)...

**Comment by datokrat** [comment]
!bench

File: src/Std/Data/Internal/List/Associative.lean (hunk 26 above)
Comment (datokrat) [reply src/Std/Data/Internal/List/Associative.lean]: I have extracted a little private lemma -- however, I'm not sure how to sufficiently generalize it to make it useful elsewhere, so I kept it in here.
